US09301951B2
N1-Methyl-N1-(2-(4-methylpiperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide
Into a 50-mL round bottom flask, was placed a solution of N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (150 mg, 0.21 mmol, 1.00 equiv) in HCHO (in water) (6 mL), NaBH3CN (15 mg, 1.10 equiv), and acetic acid (5 drops). The resulting solution was stirred for 2 h at 25° C. The resulting solution was diluted with 5 mL of sodium bicarbonate, extracted with 2×5 mL of dichloromethane, and the organic layers combined. The resulting mixture was washed with 1×5 mL of water and 1×5 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (80 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 13.3 mg (9%) of a light yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.96 (d, J=5.1 Hz, 1H), 8.76 (d, J=9.3 Hz, 1H), 8.45 (s, 1H), 8.15 (s, 1H), 8.05 (s, 2H), 7.89˜7.87 (m, 1H), 7.71˜7.62 (m, 5H), 7.59˜7.56 (m, 2H), 4.72 (s, 2H), 3.79 (s, 2H), 3.66 (d, J=5.1 Hz, 4H), 3.50˜3.34 (m, 2H), 3.15˜3.04 (m, 6H), 2.89˜2.85 (m, 6H), 2.80˜2.60 (m, 2H), 2.04 (d, J=4.5 Hz, 4H), 1.83 (d, J=5.4 Hz, 2H). MS (ES, m/z): 742 [M+H]+.

reactant | N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.21 mmol, 150 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCNCC1 | C40H44F3N7O3
reactant | NaBH3CN | 15 mg, 1.10 equiv | [BH3-]C#N.[Na+]
solvent | HCHO | 6 mL | C=O | CH2O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
product | N1-Methyl-N1-(2-(4-methylpiperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | 13.3 mg, 9% | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCN(CC1)C | C41H46F3N7O3
